US08486984B2
1.2 5-Nitro-1H-indole-2-carboxylic acid propylamide
To a solution of 5-nitro-1H-indole-2-carboxylic acid (6.95 g, 33.7 mmol) in N,N-dimethylformamide (DMF)/pyridine (1/1, 150 ml) N,N′-carbonyl-diimidazole (5.47 g, 33.71 mmol) was added. The mixture was stirred at 80° C. for 1 h. At 0° C. propylamine (9.96 g, 168.56 mmol) was added. The mixture was stirred at 0° C. for 1 h and then at room temperature for 16 h. The solution was diluted with water (2 I). After addition of sodium chloride the product precipitated. After filtration the residue was washed with water and pentane, and dried in a vacuum oven at 50° C. to give the product as a yellow powder.

reactant | 5-nitro-1H-indole-2-carboxylic acid | 33.7 mmol, 6.95 g | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)O | C9H6N2O4
reactant | propylamine | 168.56 mmol, 9.96 g | C(CC)N | C3H9N
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-Nitro-1H-indole-2-carboxylic acid propylamide | C(CC)NC(=O)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C12H13N3O3
